US06252084B1
As in Example 1, Part C, 4.46 g (0.024 mole) of 2-cyclopropyl-5-methoxy-1H-indole was treated with 15 mL (0.024 mol) of a 1.6M solution of n-butyl lithum in hexane, 24 ml (0.024 mol) of a 1M solution of ZnCl2 in ether, and 12.27 mL (0.024 mol) of methyl 2-bromoacetate to give after chromatography on silica gel (5% EtOAc/toluene→15% EtOAc/toluene) 3.81 g (61%) of 2-cyclopropyl-5-methoxy-1H-indole-3-acetic acid methyl ester as an oil.

reactant | 2-cyclopropyl-5-methoxy-1H-indole | 0.024 mole, 4.46 g | C1(CC1)C=1NC2=CC=C(C=C2C1)OC | C12H13NO
reactant | n-butyl lithum | C(CCC)[Li]
reactant | methyl 2-bromoacetate | 0.024 mol, 12.27 mL | BrCC(=O)OC | C3H5BrO2
solvent | hexane | CCCCCC | C6H14
solvent | ether | CCOCC | C4H10O
catalyst | ZnCl2 | [Cl-].[Cl-].[Zn+2]
product | 2-cyclopropyl-5-methoxy-1H-indole-3-acetic acid methyl ester | COC(CC1=C(NC2=CC=C(C=C12)OC)C1CC1)=O | C15H17NO3
